US06632835B2
Step A: 5-acetyl-2-(trifluoromethylsulfonyloxy)-benzoic Acid, Methyl Ester
Methyl 5-acetylsalicylate (25 g, 129 mmol) was dissolved in CH2Cl2 (250 mL) and pyridine (60 mL) under argon at 0° C. Trifluoromethanesulfonic anhydride (37.9 g, 133 mmol) was then added over 20 min. The reaction was stirred for an additional 30 min and then quenched with water (500 mL). The organic layer was separated and washed three times with 5% HCl (80 mL). After removing the solvent, the solid obtained was dried under vacuum to yield 40.3 g (96%) of the title compound. 1H-NMR (400 MHz, CDCl3) δH 2.56 (3H, s, COCH3), 3.89 (3H, s, OCH3), 7.32 (1H, d, ArH), 8.12 (1H, d, ArH), 8.52 (1H, s, ArH).

reactant | Methyl 5-acetylsalicylate | 129 mmol, 25 g | C(C)(=O)C1=CC=C(C(C(=O)OC)=C1)O | C10H10O4
reactant | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
reactant | Trifluoromethanesulfonic anhydride | 133 mmol, 37.9 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 5-acetyl-2-(trifluoromethylsulfonyloxy)-benzoic Acid, Methyl Ester | 40.3 g, 96% | C(C)(=O)C=1C=CC(=C(C(=O)OC)C1)OS(=O)(=O)C(F)(F)F | C11H9F3O6S
